US05268389
1-Methylethyl 2-chloro-5-[[(1-methylethoxy)thioxomethyl]amino]benzoate (Compound 32)
This is the preparation of compound 32 using 1,3-dicyclohexylcarbodiimide. A mixture of 2-chloro-5-[[(1-methylethoxy)thioxomethyl]amino]benzoic acid (2 g, 0.007 mol), isopropyl alcohol (1.3 g, 0.02 mol), 4-dimethylaminopyridine (0.85 g, 0.007 mol) in 25 ml methylene chloride was stirred in an ice bath and 1,3-dicyclohexylcarbodiimide (1.7 g 0.008 mol) added. The mixture was allowed to come to ambient temperature and stirred overnight. The precipitated solid was filtered off and the filtrate washed with dilute hydrochloric acid and aqueous 5% sodium bicarbonate. After drying over magnesium sulfate, filtering and removing the methylene chloride, the product was crystallized from toluene/petroleum ether. Yield 1.2 g m.p. 89° C. A mixed m.p. with authentic compound 32 also gave m.p. 89°-90° C. The N.M.R. spectrum was identical with that of authentic compound 32.

reactant | 1,3-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-chloro-5-[[(1-methylethoxy)thioxomethyl]amino]benzoic acid | 0.007 mol, 2 g | ClC1=C(C(=O)O)C=C(C=C1)NC(=S)OC(C)C | C11H12ClNO3S
reactant | isopropyl alcohol | 0.02 mol, 1.3 g | C(C)(C)O | C3H8O
reactant | 1,3-dicyclohexylcarbodiimide | 0.008 mol, 1.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.007 mol, 0.85 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-Methylethyl 2-chloro-5-[[(1-methylethoxy)thioxomethyl]amino]benzoate | ClC1=C(C(=O)OC(C)C)C=C(C=C1)NC(=S)OC(C)C | C14H18ClNO3S
